US07863310B2
N-[methoxy]-N-[methyl]3-cyclopentylamino-4-nitrobenzamide
Combine N-[methyl]N-[methoxy]3-fluoro-4-nitrobenzamide (2.3 g, 10 mmol), cyclopentylamine (12.3 mL, 100 mmol) and acetonitrile (50 mL) and stir at room temperature for 6 hours. Dilute with 1N HCl and extract with ethyl acetate. Wash the organic layer sequentially with water and saturated aqueous sodium chloride, then dry over magnesium sulfate. Concentrate under reduced pressure to provide the desired compound as an orange solid (2.7 g, 92%).

reactant | N-[methyl]N-[methoxy]3-fluoro-4-nitrobenzamide | 10 mmol, 2.3 g | CN(C(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O)OC | C9H9FN2O4
reactant | cyclopentylamine | 100 mmol, 12.3 mL | C1(CCCC1)N | C5H11N
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | HCl | 1N | Cl | ClH
product | N-[methoxy]-N-[methyl]3-cyclopentylamino-4-nitrobenzamide | 2.7 g, 92% | CON(C(C1=CC(=C(C=C1)[N+](=O)[O-])NC1CCCC1)=O)C | C14H19N3O4
